### PR TITLE
Lemmas on (pre)fibrations

### PR DESCRIPTION
**Pull request by Tobias-Schmude**
The ultimate goal is to formalize [1, Theorem 4.1].
For now it contains the definition of prefibrations, some lemmas on (pre)cartesianness of compositions of morphisms, and the characterisation of fibrations as prefibrations where precartesian morphisms are stable under composition.

[1] Streicher, Thomas. "Fibered categories à la Jean Benabou." arXiv preprint arXiv:1801.02927 (2018).

### CODE REVIEW

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessOfComposites.v [hunk 1]
```diff
@@ -0,0 +1,276 @@
...
+Require Import UniMath.CategoryTheory.opp_precat.
+Require Import UniMath.CategoryTheory.Presheaf.
+Local Open Scope cat.
+
+Require Import UniMath.CategoryTheory.DisplayedCats.Auxiliary.
+Require Import UniMath.CategoryTheory.DisplayedCats.Core.
+Require Import UniMath.CategoryTheory.DisplayedCats.Constructions.
+Require Import UniMath.CategoryTheory.DisplayedCats.Fibrations.
+
+Require Import UniMath.Foundations.All.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessOfComposites.v:29]: This import is duplicated from line 3.

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/Prefibrations.v [hunk 2]
```diff
@@ -0,0 +1,359 @@
...
+  - use tpair.
+    + apply precartff.
+      eapply (transportf (mor_disp d'' d) (id_left f)).
+      exact hh.
+    + simpl.
+      eapply pathscomp0.
+      * apply precartesian_factorisation_commutes.
+      * apply transportbfinv.
+Defined.
+*)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/MoreFibrations/Prefibrations.v:201]: Should this commented-out code be deleted?

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsPreliminaries.v [hunk 3]
```diff
@@ -0,0 +1,58 @@
...
+Proof.
+  intro Hggff.
+  eapply pathscomp0.
+  - apply (cartesian_factorisation_of_composite H).
+  - eapply pathscomp0.
+    + apply maponpaths.
+      exact Hggff.
+    + apply pathsinv0.
+      apply cartesian_factorisation_of_composite.
+Qed.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsPreliminaries.v:58]: These lemmas could go into the file `DisplayedCats.Fibrations`, avoiding fragmentation. This file should then be deleted.

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v [hunk 4]
```diff
@@ -0,0 +1,174 @@
...
+
+Definition eq_prewhisker {C} {D : disp_precat C}
+    {x y z} {f} {g} {xx : D x} {yy : D y} {zz : D z}
+    (ff : xx -->[f] yy) (gg gg' : yy -->[g] zz)
+  : gg = gg' -> ff ;; gg = ff ;; gg'.
+Proof.
+  intro H.
+  apply (maponpaths (λ gg, ff ;; gg)).
+  assumption.
+Qed.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v:110]: Instead of using this lemma, one can just as well use `apply maponpaths.`. Let's remove it.

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v [hunk 5]
```diff
@@ -0,0 +1,174 @@
...
+
+Definition eq_postwhisker {C} {D : disp_precat C}
+    {x y z} {f} {g} {xx : D x} {yy : D y} {zz : D z}
+    (ff ff' : xx -->[f] yy) (gg : yy -->[g] zz)
+  : ff = ff' -> ff ;; gg = ff' ;; gg.
+Proof.
+  intro H.
+  apply (maponpaths (λ ff, ff ;; gg)).
+  assumption.
+Qed.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v:100]: Instead of using this lemma, one can just as well use `apply maponpaths` or `maponpaths_2` or similar. Let's remove it.

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v [hunk 6]
```diff
@@ -0,0 +1,174 @@
...
+Definition precleaving_comp_is_precart
+    {C : category} {D : disp_cat C} (lift : precleaving D)
+  := forall (c c' c'' : C) (f' : c'' --> c') (f : c' --> c) (d : D c),
+    is_precartesian ((lift _ _ f' (object_of_precartesian_lift (lift _ _ f d))) ;; (lift _ _ f d)).
+
+Definition precleaving_is_cleaving
+    {C : category} {D : disp_cat C} (lift : precleaving D)
+:= forall (c c' : C) (f: c' --> c) (d : D c), is_cartesian (lift _ _ f d).
+
+Search (transportf _ _ ?p = transportf _ _ ?p' -> ?p = ?p').
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v:44]:
```suggestion
```

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v [hunk 7]
```diff
@@ -0,0 +1,174 @@
...
+  apply idfun.
+Defined.
+
+Lemma transportb_cancel
+      {X : UU} (P : X → UU) {x x' : X} (e : x = x') (y'0 y'1 : P x'):
+      transportb P e y'0 = transportb P e y'1 -> y'0 = y'1.
+Proof.
+  induction e.
+  apply idfun.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v:60]: `transportb` is a special case of `transportf`, so you don't need this version and can use `transportf_cancel` instead.

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FiberDisplayedCategory.v [hunk 8]
```diff
@@ -0,0 +1,348 @@
...
+  : disp_cat_data B.
+Proof.
+  exists (fiber_disp_cat_ob_mor F).
+  apply fiber_disp_cat_id_comp.
+Defined.
+
+(*Search (_ = pr1 (transportf _ _ _)).
+Search (pr1 (transportf _ _ _) = _).*)
+
+About pr1_transportf.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FiberDisplayedCategory.v:211]:
```suggestion
```

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FiberDisplayedCategory.v [hunk 9]
```diff
@@ -0,0 +1,348 @@
...
+    {C : category} {c0 c0' c1 c2 c2' : C} (H0 : c0 = c0') (H2 : c2 = c2')
+    (f0: c0 --> c1) (f1 : c1 --> c2)
+  : transportf_mor H0 H2 (f0 · f1) =
+    (transportf_mor H0 (idpath _) f0) · (transportf_mor (idpath _) H2 f1).
+Proof.
+  induction H2. induction H0.
+  apply idpath_transportf.
+Qed.
+
+About transport_compose'.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FiberDisplayedCategory.v:105]:
```suggestion
```

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/DisplayedDisplayedCategories.v [hunk 10]
```diff
@@ -0,0 +1 @@
+(** TODO: Defined displayed displayed categories as well as their total and fiber displayed displayed categories. *)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/MoreFibrations/DisplayedDisplayedCategories.v:1]: What is the purpose of this file?

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessWrtFibers.v [hunk 11]
```diff
@@ -0,0 +1,33 @@
+(** TODO: Lemmas L2&3 and Preliminaries *)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessWrtFibers.v:1]: This file should be deleted.

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessWrtComposites.v [hunk 12]
```diff
@@ -0,0 +1,33 @@
+(** TODO: Lemma L1 as well as preliminaries. *)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessWrtComposites.v:1]: This file should be deleted?

**Review by benediktahrens — CHANGES_REQUESTED** [review]

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessOfComposites.v (hunk 1 above)
Comment (Tobias-Schmude) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessOfComposites.v:29]: Deleted

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/Prefibrations.v (hunk 2 above)
Comment (Tobias-Schmude) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/Prefibrations.v:201]: I deleted it since you meant it has no advantage over the easier induction.

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsPreliminaries.v (hunk 3 above)
Comment (Tobias-Schmude) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsPreliminaries.v:58]: I thought this was the point of the other pull request?

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v (hunk 4 above)
Comment (Tobias-Schmude) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v:110]: done

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v (hunk 5 above)
Comment (Tobias-Schmude) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v:100]: done

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v (hunk 6 above)
Comment (Tobias-Schmude) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v:44]: done

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v (hunk 7 above)
Comment (Tobias-Schmude) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsCharacterisation.v:60]: Deleted `transportb_cancel` and replaced by transportf_cancel.

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FiberDisplayedCategory.v (hunk 8 above)
Comment (Tobias-Schmude) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FiberDisplayedCategory.v:211]: deleted

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FiberDisplayedCategory.v (hunk 9 above)
Comment (Tobias-Schmude) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FiberDisplayedCategory.v:105]: done

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessWrtComposites.v (hunk 12 above)
Comment (Tobias-Schmude) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessWrtComposites.v:1]: Why? Is it unusual to leave things to be filled in?

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/DisplayedDisplayedCategories.v (hunk 10 above)
Comment (Tobias-Schmude) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/DisplayedDisplayedCategories.v:1]: The intent was to define what we discussed last time, but now it seems that I'm going in another direction (displayed Street fibrations), so I deleted this.

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessWrtComposites.v (hunk 12 above)
Comment (benediktahrens) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessWrtComposites.v:1]: > Why? Is it unusual to leave things to be filled in?

No, but personal notes should be kept out of it.

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsPreliminaries.v (hunk 3 above)
Comment (Tobias-Schmude) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/FibrationsPreliminaries.v:58]: This file contains exactly those proofs: the factored-out lemma and the main one. The intention is to get rid of it of course.

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessWrtFibers.v (hunk 11 above)
Comment (Tobias-Schmude) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessWrtFibers.v]: done

File: UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessWrtComposites.v (hunk 12 above)
Comment (Tobias-Schmude) [reply UniMath/CategoryTheory/DisplayedCats/MoreFibrations/CartesiannessWrtComposites.v]: done

**Review by benediktahrens — APPROVED** [review]
